US04940703
(a) 5-Nitro-1H-indole-3-carboxylic acid
Trifluoroacetic anhydride (21.37 g) was added dropwise to a chilled solution of 5-nitro-1H-indole (15.0 g) in dry dimethylformamide (150 ml) under a dry N2 atmosphere. The solution was allowed to warm to room temperature, and was then heated at reflux for 24 hours. The reaction mixture was cooled and poured into water (500 ml) and the resulting dark brown precipitate was filtered, suspended in water (200 ml) containing sodium hydroxide (50.0 g), and heated at reflux for 3 hours. The dark brown solution was cooled to room temperature, extracted with ether (4×100 ml), acidified to pH2 and the title compound filtered and dried (19 g), m.p. 256°-258° C. δH (360 MHz, DMSO-d6) 7.71 (1H, d, J=7.2 Hz, H-7), 8.9 (1H, dd, J=7.2, 1.0 Hz), 8.27 (1H, s, H-2), 8.89 (1H, d, J= 1.0 Hz, H-4); m/z 206 (M+, 70), 163 (10), 138 (20), 123 (100, 106 (15), 81 (10%).

reactant | Trifluoroacetic anhydride | 21.37 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-nitro-1H-indole | 15.0 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5-Nitro-1H-indole-3-carboxylic acid | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)C(=O)O | C9H6N2O4
